US05726165
(SR)-4-{2-[3-(3,4-Dibenzyloxyphenoxy)-2-hydroxypropylamino]propyl}phenoxy acetic acid, methyl ester
The title compound was prepared from (S)-3-(3,4-dibenzyloxyphenoxy)-1,2-epoxypropane and (R)-4-(2-aminopropyl)phenoxyacetic acid methyl ester according to the method described in Procedure 13.

reactant | (S)-3-(3,4-dibenzyloxyphenoxy)-1,2-epoxypropane | C(C1=CC=CC=C1)OC=1C=C(OC[C@@H]2CO2)C=CC1OCC1=CC=CC=C1 | C23H22O4
reactant | (R)-4-(2-aminopropyl)phenoxyacetic acid methyl ester | COC(COC1=CC=C(C=C1)C[C@@H](C)N)=O | C12H17NO3
product | (SR)-4-{2-[3-(3,4-Dibenzyloxyphenoxy)-2-hydroxypropylamino]propyl}phenoxy acetic acid, methyl ester | C(C1=CC=CC=C1)OC=1C=C(OCC(CNC(CC2=CC=C(OCC(=O)OC)C=C2)C)O)C=CC1OCC1=CC=CC=C1 | C35H39NO7
